US05473080
1. N-Cinnamyl-N-allylamine
175 ml (1.27 mol) of triethylamine were added to 173 ml (1.16 mol) of cinnamyl chloride in 1,350 ml of tetrahydrofuran, the mixture was heated to 60° C., and then 105 ml (1.40 mol) of allylamine were added dropwise. The mixture was refluxed for 6 h and then stirred at room temperature for 10 h. After concentration under water pump vacuum, the contents of the flask were partitioned between methyl t-butyl ether and water (pH=10). The aqueous phase was extracted twice more with methyl t-butyl ether and subsequently the combined organic phases were extracted with a mixture of 250 ml of concentrated hydrochloric acid and 2 l of water. The aqueous phase was then extracted with 1.2 l of methylene chloride, and the methylene chloride phase washed five times with 500 ml of 10% strength hydrochloric acid each time. The combined aqueous phases were made alkaline with concentrated sodium hydroxide solution and extracted twice with methylene chloride. Drying and concentration of the organic phase resulted in 66.5 g of crude product which was distilled at 86°-88° C. under oil pump vacuum (0.25 mbar). Yield: 64 g (32%).

reactant | triethylamine | 1.27 mol, 175 ml | C(C)N(CC)CC | C6H15N
reactant | cinnamyl chloride | 1.16 mol, 173 ml | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | allylamine | 1.40 mol, 105 ml | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 1,350 ml | O1CCCC1 | C4H8O
product | N-Cinnamyl-N-allylamine | 66.5 g | C(C=CC1=CC=CC=C1)NCC=C | C12H15N
